US08198279B2
1-(2-Fluoro-5-(trifluoromethyl)phenyl)-3-(2-fluoro-4-(3-oxo-3,4-dihydro pyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea (AA-026)
Method F2 was used with 8-(4-amino-3-fluorophenoxy)pyrido[2,3-b]pyrazin-3(4H)-one and 2-fluoro-5-trifluoromethyl-phenylisocyanate to afford the title compound, yield=80%.

reactant | 8-(4-amino-3-fluorophenoxy)pyrido[2,3-b]pyrazin-3(4H)-one | NC1=C(C=C(OC2=CC=NC=3NC(C=NC32)=O)C=C1)F | C13H9FN4O2
reactant | 2-fluoro-5-trifluoromethyl-phenylisocyanate | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(2-Fluoro-5-(trifluoromethyl)phenyl)-3-(2-fluoro-4-(3-oxo-3,4-dihydro pyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea | yield=80% | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC=2NC(C=NC21)=O)F | C21H12F5N5O3
